US04394515
10,11-Dihydro-3-(5-tetrazolyl)dibenzo[b,f]thiepin 5,5-dioxide
To 9 cc. tetrahydrofuran, cooled in an ice bath, is added in the following order 862 mg. aluminum chloride, 792 mg. 3-cyano-10,11-dihydrodibenzo[b,f]thiepin-5,5-dioxide, and 839 mg. sodium azide. The mixture is refluxed for six hours, cooled down, treated with 3 cc. 15% aqueous hydrochloric acid. The organic solvent is decanted and the residue triturated several times with ethyl acetate. The combined organic phases are washed with water, then extracted with aqueous sodium bicarbonate solution. The aqueous layer is acidified with hydrochloric acid and the precipitated tetrazole is filtered, washed with water, and dried, yield 580 mg. (63%), m.p. 233° C. dec.

reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 3-cyano-10,11-dihydrodibenzo[b,f]thiepin-5,5-dioxide | C(#N)C=1C=CC2=C(S(C3=C(CC2)C=CC=C3)(=O)=O)C1 | C15H11NO2S
reactant | sodium azide | [N-]=[N+]=[N-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 10,11-Dihydro-3-(5-tetrazolyl)dibenzo[b,f]thiepin 5,5-dioxide | N1N=NN=C1C=1C=CC2=C(S(C3=C(CC2)C=CC=C3)(=O)=O)C1 | C15H12N4O2S
